US04636497
7-Ethoxy-1-oxo-1,2,3,4-tetrahydrophenothiazine
A solution of 5.4 g (0.016 mol) of 4,4'-diethoxy-2,2'-dithiodianiline and 3.6 g (0.032 mol) of 1,3-cyclohexanedione in 20 ml of dimethyl sulphoxide was heated at 110°-120° C. for one hour. After cooling, the mixture was added to 100 ml of water, and acetone was added. A precipitate formed which was filtered off with suction and recrystallised from DMF/isopropanol.

reactant | 4,4'-diethoxy-2,2'-dithiodianiline | 0.016 mol, 5.4 g | C(C)OC1=CC(=C(N)C=C1)SSC1=C(N)C=CC(=C1)OCC | C16H20N2O2S2
reactant | 1,3-cyclohexanedione | 0.032 mol, 3.6 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | water | 100 ml | O | H2O
reactant | acetone | CC(=O)C | C3H6O
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 7-Ethoxy-1-oxo-1,2,3,4-tetrahydrophenothiazine | C(C)OC=1C=C2SC=3CCCC(C3NC2=CC1)=O | C14H15NO2S
